US04940790
(a) 2-chloro-1-(3,5-di-tert.butyl-4-hydroxyphenyl)-ethanone
16.2 g (0.12 mol) of sulfuryl chloride in 50 ml of methylene chloride were added dropwise while stirring to a solution of 19.9 g (0.08 mol) of 1-(3,5-di-tert.butyl-4-hydroxyphenyl)-ethanone in 250 ml of methylene chloride at room temperature. After stirring for 3 hours at room temperature, the batch was washed by shaking first with water and then with a saturated sodium hydrogen carbonate solution, and the methylene chloride phase was dried over sodium sulfate and evaporated under reduced pressure.

reactant | sulfuryl chloride | 0.12 mol, 16.2 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 1-(3,5-di-tert.butyl-4-hydroxyphenyl)-ethanone | 0.08 mol, 19.9 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C(C)=O | C16H24O2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | 2-chloro-1-(3,5-di-tert.butyl-4-hydroxyphenyl)-ethanone | ClCC(=O)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C16H23ClO2
